US04329345
N-(2-Pyrimidinyl)-4-phenyl-4-carboethoxy piperidine
To a mixture of 4.0 gms (0.017 mole) 4-phenyl-4-carboethoxy-piperidine and 1.72 gms (0.017 mole) of triethylamine in 50 ml. toluene was added dropwise 2.0 gms (0.017 mole) 2-chloropyrimidine. Triethylamine hydrochloride started to precipitate out almost immediately. The reaction mixture was warmed to 70°-80° for a period of two hours, and then allowed to cool. The triethylamine hydrochloride was filtered off and the filtrate washed with water (to remove the last traces of triethylamine hydrochloride). The residue was recrystallized from acetone to yield 2.5 gms (47% yield), m.p. 119°-120°.

reactant | 4-phenyl-4-carboethoxy-piperidine | 0.017 mole, 4.0 gms | C1(=CC=CC=C1)C1(CCNCC1)C(=O)OCC | C14H19NO2
reactant | triethylamine | 0.017 mole, 1.72 gms | C(C)N(CC)CC | C6H15N
reactant | 2-chloropyrimidine | 0.017 mole, 2.0 gms | ClC1=NC=CC=N1 | C4H3ClN2
reactant | Triethylamine hydrochloride | Cl.C(C)N(CC)CC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(2-Pyrimidinyl)-4-phenyl-4-carboethoxy piperidine | 47% yield | N1=C(N=CC=C1)N1CCC(CC1)(C(=O)OCC)C1=CC=CC=C1 | C18H21N3O2
